US04792628
5 Grams of 1-amino-7-hydroxy-4-methylindane was dissolved in 30 ml of acetic acid, then an acetic acid solution containing 1.73 ml of bromine was added and stirred at a room temperature for 1 hour. The crystals precipitated were collected by filtration, and were recrystallized from isopropanol to obtain 2 g of 1-amino-6-bromo-7-hydroxy-4-methylindane hydrobromide in the form of yellow needle-like crystals. Melting point: 178°-190° C. (decomp.) The structure was determined by means of NMR.

reactant | 1-amino-7-hydroxy-4-methylindane | NC1CCC2=C(C=CC(=C12)O)C | C10H13NO
reactant | bromine | 1.73 ml | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-amino-6-bromo-7-hydroxy-4-methylindane hydrobromide | 2 g | Br.NC1CCC2=C(C=C(C(=C12)O)Br)C | InChI=1S/C10H12BrNO.BrH/c1-5-4-7(11)10(13)9-6(5)2-3-8(9)12;/h4,8,13H,2-3,12H2,1H3;1H
